US07498337B2
tert-butyl methyl{[5-(4-methyl-3-thienyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}carbamate
By a similar operation as in Reference Example 79 and using tert-butyl{[5-bromo-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate (300 mg), (4-methyl-3-thienyl)boronic acid (198 mg), tetrakis(triphenylphosphine)palladium (40 mg) and sodium carbonate (222 mg), the title compound was obtained as a pale-yellow oil (yield 200 mg, 64%). More specifically, a suspension of tert-butyl{[5-bromo-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate (300 mg), (4-methyl-3-thienyl)boronic acid (198 mg), tetrakis(triphenylphosphine)palladium (40 mg) and sodium carbonate (222 mg) in 1,2-dimethoxyethane (10 mL) and water (7.5 mL) was stirred at 105° C. for 18 hr. The reaction mixture was allowed to cool to room temperature, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogencarbonate solution, water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=6:1→3:1) to give the title compound as a pale-yellow oil (yield 200 mg, 64%).

reactant | tert-butyl{[5-bromo-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | 300 mg | C(C)(C)(C)OC(N(C)CC1=CN(C(=C1)Br)S(=O)(=O)C=1C=NC=CC1)=O | C16H20BrN3O4S
reactant | (4-methyl-3-thienyl)boronic acid | 198 mg | CC=1C(=CSC1)B(O)O | C5H7BO2S
reactant | sodium carbonate | 222 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl methyl{[5-(4-methyl-3-thienyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}carbamate | CN(C(OC(C)(C)C)=O)CC1=CN(C(=C1)C1=CSC=C1C)S(=O)(=O)C=1C=NC=CC1 | C21H25N3O4S2
